US07173129B2
N-Butyryl-4-{3E-[5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]acryl}benzenesulfonamide
To a solution of 4-{3E-[5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonamide (Ex-35E, 0.92 g, 2 mmol), DMAP(0.024 g, 0.2 mmol) and Et3N (0.2 g, 2.1 mmol) in 100 ml o THF was added butyric anhydride (0.64 g, 4 mmol). The reaction mixture was stirred at room temperature overnight. The clear solution was then poured into 150 ml of H2O and extracted with CH2Cl2. The combined organic phase was washed with water, dried over MgSO4, and concentrated to dryness. Recrystallization from EtOAc/hexenes gave 0.80 g (75%) of the title compound as a red solid, mp 155–165° C. 1H-NMR (300 MHz, Acetone-d6) δ 10.55 (br, 1H), 8.35 (s, 1H), 8.27 (d, J=8 Hz, 2H), 8.13–8.20 (m, 3H), 7.89 (d, J=16 Hz, 1H), 7.52 (d, J=7 Hz, 1H), 7.39 (d, J=8 Hz, 1H), 7.02–7.07(m, 1H), 6.95–7.00 (m, 2H), 6.90 (s, 1H), 4.10 (s, 3H), 4.04 (s, 3H), 2.29 (t, J=8 Hz, 2H), 1.48–1.56 (m, 2H), 0.81(t, J=8 Hz, 3H).

reactant | 4-{3E-[5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonamide | 2 mmol, 0.92 g | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OC)OC | C25H22N2O5S
reactant | Et3N | 2.1 mmol, 0.2 g | CCN(CC)CC | C6H15N
reactant | THF | C1CCOC1 | C4H8O
reactant | butyric anhydride | 4 mmol, 0.64 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
catalyst | DMAP | 0.2 mmol, 0.024 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | H2O | 150 ml | O | H2O
product | N-Butyryl-4-{3E-[5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]acryl}benzenesulfonamide | 0.80 g, 75% | C(CCC)(=O)NS(=O)(=O)C1=CC=C(C=C1)C(=O)\C=C\C1=C(C=C(C(=C1)C=1NC2=CC=CC=C2C1)OC)OC | C29H28N2O6S
